US07767675B2
Step 3. N-cyclohexyl-3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidine-6-carboxamide
Triethylamine (13.9 μL, 0.1 mmol) was added to a mixture of 3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidine-6-carboxylic acid (8.26 mg, 0.025 mmol), (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (14.3 mg, 0.0275 mmol) and cyclohexanamine (5.7 μL, 0.05 mmol) in N,N-dimethylformamide (0.5 mL) at RT. The mixture was stirred at RT for 2 h, and diluted with methanol (1.3 mL). The resulting solution was purified by RP-HPLC to give the desired product. LCMS: (M+H)=412.1.

reactant | Triethylamine | 0.1 mmol, 13.9 μL | C(C)N(CC)CC | C6H15N
reactant | 3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidine-6-carboxylic acid | 0.025 mmol, 8.26 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=CN=C2N1C=C(C=N2)C(=O)O | C19H14N4O2
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 0.0275 mmol, 14.3 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | cyclohexanamine | 0.05 mmol, 5.7 μL | C1(CCCCC1)N | C6H13N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | methanol | 1.3 mL | CO | CH4O
product | N-cyclohexyl-3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidine-6-carboxamide | C1(CCCCC1)NC(=O)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C25H25N5O
